US04056384
A stirred mixture of 3-formyl-4-nitrophenyl ethyl carbonate (33.1 g, prepared as described in J. Chem. Soc., 1925, 1195), potassium permanganate (17.0 g), acetic acid (33 ml) and acetone (330 ml) was cooled to keep the temperature below 50°, then allowed to stand at room temperature for a further forty-five minutes. Dilute sulphuric acid and chloroform were added and the mixture decolorised with sodium metabisulphite. The organic layer was extracted with sodium bicarbonate solution and the extracts acidified with dilute hydrochloric acid to give 3-carboxy-4-nitrophenyl ethyl carbonate (23.2 g, m.p. 132-7°).

reactant | 3-formyl-4-nitrophenyl ethyl carbonate | 33.1 g | C(OC1=CC(=C(C=C1)[N+](=O)[O-])C=O)(OCC)=O | C10H9NO6
reactant | potassium permanganate | 17.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium metabisulphite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 330 ml | CC(=O)C | C3H6O
solvent | acetic acid | 33 ml | C(C)(=O)O | C2H4O2
product | 3-carboxy-4-nitrophenyl ethyl carbonate | 23.2 g | C(OC1=CC(=C(C=C1)[N+](=O)[O-])C(=O)O)(OCC)=O | C10H9NO7
